US06727264B1
N-[3-(1-{5-OXO-5-[2-(TRIFLUOROMETHYL)PHENYL]PENTYL}-4-PIPERIDINYL)PHENYL]CYCLOPROPANECARBOXAMIDE:
Prepared by Procedure K and Scheme B1 using 5-chloro-1-[2-(trifluoromethyl)phenyl]-1-pentanone and N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide: ESMS m/e: 473.2 (M+H)+.

reactant | 5-chloro-1-[2-(trifluoromethyl)phenyl]-1-pentanone | ClCCCCC(=O)C1=C(C=CC=C1)C(F)(F)F | C12H12ClF3O
reactant | N-[3-(4-piperidinyl)phenyl]cyclopropanecarboxamide | N1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1 | C15H20N2O
product | N-[3-(1-{5-OXO-5-[2-(TRIFLUOROMETHYL)PHENYL]PENTYL}-4-PIPERIDINYL)PHENYL]CYCLOPROPANECARBOXAMIDE | O=C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(=O)C1CC1)C1=C(C=CC=C1)C(F)(F)F | C27H31F3N2O2
